US06403561B1
Preparation of 3-(R/S)-methylindoline-2(R/S)-carboxylic Acid Butylamide
Methyl 3-(R/S)-methylindoline-2(R/S)-carboxylate (3.60 g, 18.8 mmol) was dissolved in butylamine (100 ml) under nitrogen and the solution was then stirred at reflux for 3 hours. After cooling the mixture, the remaining butylamine was removed under vacuum. The crude product was purified by chromatography on a column of silica gel, using a 7/3 and then a 5/5 petroleum ether/ethyl acetate mixture as eluent. Two main fractions were collected. The first was a white solid which is the trans isomer.

reactant | Methyl 3-(R/S)-methylindoline-2(R/S)-carboxylate | 18.8 mmol, 3.60 g | CC1C(NC2=CC=CC=C12)C(=O)OC | C11H13NO2
solvent | butylamine | 100 ml | C(CCC)N | C4H11N
product | 3-(R/S)-methylindoline-2(R/S)-carboxylic Acid Butylamide | C(CCC)NC(=O)C1NC2=CC=CC=C2C1C | C14H20N2O
